US06677337B2
Preparation of 4-[4-(4-Fluorophenyl)-2-methyl-5-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester (11).
To a solution of 4-{N′-[2-(4-fluoro-phenyl)-acetyl]-N′-methyl-N-(2-methylsulfanyl-pyrimidine-4-carbonyl)-hydrazino}-piperidine-1-carboxylic acid tert-butyl ester, 10, (1.058 g, 2.05 mmol) in DMF (2 mL) at 0° C. is slowly added NaH (123 mg of a 60% dispersion in mineral oil, 3.07 mmol). The reaction mixture is stirred for 1 hour at 0° C. and then quenched with 0.1 N HCl. The aqueous layer is extracted three times with CH2Cl2 and the combined organic layers are dried (MgSO4), filtered and concentrated in vacuo. Purification over silica (20% MeOH/CHCl3) affords 0.743 g (73% yield) of the diesired product. ESI/MS: 500.2 (M+H).

reactant | 4-{N′-[2-(4-fluoro-phenyl)-acetyl]-N′-methyl-N-(2-methylsulfanyl-pyrimidine-4-carbonyl)-hydrazino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(N(C)C(CC1=CC=C(C=C1)F)=O)C(=O)C1=NC(=NC=C1)SC | C25H32FN5O4S
reactant | NaH | [H-].[Na+]
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 4-[4-(4-Fluorophenyl)-2-methyl-5-(2-methylsulfanyl-pyrimidin-4-yl)-3-oxo-2,3-dihydro-pyrazol-1-yl]-piperidine-1 carboxylic acid tert-butyl ester | 0.743 g, 73% yield | C(C)(C)(C)OC(=O)N1CCC(CC1)N1N(C(C(=C1C1=NC(=NC=C1)SC)C1=CC=C(C=C1)F)=O)C | C25H30FN5O3S
